US05840751
5,6-Dihydro-4-hydroxy-3-[(3-methylphenyl)methyl]-6,6-diphenyl-2H-pyran-2-one.
The title compound was prepared as described in General Method 8 using the following: 5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (0.300 g, 1.13 mmol), Et3N 0.16 mL, 1.15 mmol), 3-methylbenzoyl chloride (0.15 mL, 1.13 mmol), CH2Cl2 (4.0 mL), acetonitrile (4.0 mL), acetone cyanohydrin (0.05 mL, 0.58 mmol), Et3N (0.32 mL, 2.3 mmol), glacial acetic acid (4.0 mL), sodium cyanoborohydride (0.28 g, 4.5 mmol). Purification was achieved by submitting the final residue to column chromatograpy (SiO2, 100% CH2Cl2 to 1% MeOH in CH2 Cl2) to provide a solid (0.223 g, m.p. 57°-59° C.). 1H NMR (400 MHz, DMSO-d6) δ 11.112 (bs, 1 H), 7.414-7.270 (m, 10 H), 6.875-6.812 (m, 2 H), 6.429-6.392 (m, 2 H), 3.527 (s, 2 H), 3.409 (s, 2 H), 2.060 (s, 3 H).

reactant | 5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 1.13 mmol, 0.300 g | OC1=CC(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H14O3
reactant | Et3N | 1.15 mmol, 0.16 mL | CCN(CC)CC | C6H15N
reactant | 3-methylbenzoyl chloride | 1.13 mmol, 0.15 mL | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
reactant | acetone cyanohydrin | 0.58 mmol, 0.05 mL | CC(C#N)(O)C | C4H7NO
reactant | Et3N | 2.3 mmol, 0.32 mL | CCN(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 4.5 mmol, 0.28 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 4.0 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 5,6-Dihydro-4-hydroxy-3-[(3-methylphenyl)methyl]-6,6-diphenyl-2H-pyran-2-one | OC1=C(C(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)C | C25H22O3
